US05665718
6.01 g (12.3 mmol) of (S)-8-chloro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were placed in 60 ml of ethanol and treated dropwise with 120 ml of methylamine (33% in ethanol) at 60° within 30 min. The solution was stirred at 70° for 2 hours and subsequently concentrated. By chromatography of the residue on silica gel while eluting with ethyl acetate/methanol 8/2 there were obtained 4.0 g (91%) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 206°-208°.

reactant | (S)-8-chloro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 12.3 mmol, 6.01 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NC(=NO3)CN3C(C=2C(C3=O)=CC=CC2)=O)CC1)=O | C24H15ClN6O4
reactant | methylamine | 120 ml | CN | CH5N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 4.0 g, 91% | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C16H13ClN6O2
